US07384963B2
N-[3-(Dimethylaminomethyl)-4-methoxyphenyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride and 3-(dimethylaminomethyl)-4-methoxyaniline using method K. LCMS; retention time 2.65 min, MH+ 457.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)Cl | C17H13ClN2O2
reactant | 3-(dimethylaminomethyl)-4-methoxyaniline | CN(C)CC=1C=C(N)C=CC1OC | C10H16N2O
product | N-[3-(Dimethylaminomethyl)-4-methoxyphenyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CN(C)CC=1C=C(C=CC1OC)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C | C27H28N4O3
